US05854273
Stage A: Methyl benzofuran-3-ylacetate
A mixture of 0.4 mol of coumaranone and 0.48 mol of methyl (triphenylphosphoranylidene)acetate in 1 liter of p-xylene is maintained at reflux for 18 h. After cooling to room temperature, the solvent is evaporated off, the residue is taken up in 1 liter of ether, the precipitate is filtered off and washed with ether, the filtrate is concentrated and the expected product is obtained after chromatography on silica (eluent: CH2Cl2).

reactant | coumaranone | 0.4 mol | O1C(CC2=CC=CC=C12)=O | C8H6O2
reactant | methyl (triphenylphosphoranylidene)acetate | 0.48 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | p-xylene | 1 liter | CC=1C=CC(=CC1)C | C8H10
product | Methyl benzofuran-3-ylacetate | O1C=C(C2=C1C=CC=C2)CC(=O)OC | C11H10O3
